* Scilab Script
*-->lines(0)
*-->for i=1:200
*-->mprintf("T%d z%d 0 z%d 0 Z0={Z0} Td={TS}\n",i,i-1,i)
*-->end
T1 z0 0 z1 0 Z0={Z0} Td={TS}
T2 z1 0 z2 0 Z0={Z0} Td={TS}
T3 z2 0 z3 0 Z0={Z0} Td={TS}
T4 z3 0 z4 0 Z0={Z0} Td={TS}
T5 z4 0 z5 0 Z0={Z0} Td={TS}
T6 z5 0 z6 0 Z0={Z0} Td={TS}
T7 z6 0 z7 0 Z0={Z0} Td={TS}
T8 z7 0 z8 0 Z0={Z0} Td={TS}
T9 z8 0 z9 0 Z0={Z0} Td={TS}
T10 z9 0 z10 0 Z0={Z0} Td={TS}
T11 z10 0 z11 0 Z0={Z0} Td={TS}
T12 z11 0 z12 0 Z0={Z0} Td={TS}
T13 z12 0 z13 0 Z0={Z0} Td={TS}
T14 z13 0 z14 0 Z0={Z0} Td={TS}
T15 z14 0 z15 0 Z0={Z0} Td={TS}
T16 z15 0 z16 0 Z0={Z0} Td={TS}
T17 z16 0 z17 0 Z0={Z0} Td={TS}
T18 z17 0 z18 0 Z0={Z0} Td={TS}
T19 z18 0 z19 0 Z0={Z0} Td={TS}
T20 z19 0 z20 0 Z0={Z0} Td={TS}
T21 z20 0 z21 0 Z0={Z0} Td={TS}
T22 z21 0 z22 0 Z0={Z0} Td={TS}
T23 z22 0 z23 0 Z0={Z0} Td={TS}
T24 z23 0 z24 0 Z0={Z0} Td={TS}
T25 z24 0 z25 0 Z0={Z0} Td={TS}
T26 z25 0 z26 0 Z0={Z0} Td={TS}
T27 z26 0 z27 0 Z0={Z0} Td={TS}
T28 z27 0 z28 0 Z0={Z0} Td={TS}
T29 z28 0 z29 0 Z0={Z0} Td={TS}
T30 z29 0 z30 0 Z0={Z0} Td={TS}
T31 z30 0 z31 0 Z0={Z0} Td={TS}
T32 z31 0 z32 0 Z0={Z0} Td={TS}
T33 z32 0 z33 0 Z0={Z0} Td={TS}
T34 z33 0 z34 0 Z0={Z0} Td={TS}
T35 z34 0 z35 0 Z0={Z0} Td={TS}
T36 z35 0 z36 0 Z0={Z0} Td={TS}
T37 z36 0 z37 0 Z0={Z0} Td={TS}
T38 z37 0 z38 0 Z0={Z0} Td={TS}
T39 z38 0 z39 0 Z0={Z0} Td={TS}
T40 z39 0 z40 0 Z0={Z0} Td={TS}
T41 z40 0 z41 0 Z0={Z0} Td={TS}
T42 z41 0 z42 0 Z0={Z0} Td={TS}
T43 z42 0 z43 0 Z0={Z0} Td={TS}
T44 z43 0 z44 0 Z0={Z0} Td={TS}
T45 z44 0 z45 0 Z0={Z0} Td={TS}
T46 z45 0 z46 0 Z0={Z0} Td={TS}
T47 z46 0 z47 0 Z0={Z0} Td={TS}
T48 z47 0 z48 0 Z0={Z0} Td={TS}
T49 z48 0 z49 0 Z0={Z0} Td={TS}
T50 z49 0 z50 0 Z0={Z0} Td={TS}
T51 z50 0 z51 0 Z0={Z0} Td={TS}
T52 z51 0 z52 0 Z0={Z0} Td={TS}
T53 z52 0 z53 0 Z0={Z0} Td={TS}
T54 z53 0 z54 0 Z0={Z0} Td={TS}
T55 z54 0 z55 0 Z0={Z0} Td={TS}
T56 z55 0 z56 0 Z0={Z0} Td={TS}
T57 z56 0 z57 0 Z0={Z0} Td={TS}
T58 z57 0 z58 0 Z0={Z0} Td={TS}
T59 z58 0 z59 0 Z0={Z0} Td={TS}
T60 z59 0 z60 0 Z0={Z0} Td={TS}
T61 z60 0 z61 0 Z0={Z0} Td={TS}
T62 z61 0 z62 0 Z0={Z0} Td={TS}
T63 z62 0 z63 0 Z0={Z0} Td={TS}
T64 z63 0 z64 0 Z0={Z0} Td={TS}
T65 z64 0 z65 0 Z0={Z0} Td={TS}
T66 z65 0 z66 0 Z0={Z0} Td={TS}
T67 z66 0 z67 0 Z0={Z0} Td={TS}
T68 z67 0 z68 0 Z0={Z0} Td={TS}
T69 z68 0 z69 0 Z0={Z0} Td={TS}
T70 z69 0 z70 0 Z0={Z0} Td={TS}
T71 z70 0 z71 0 Z0={Z0} Td={TS}
T72 z71 0 z72 0 Z0={Z0} Td={TS}
T73 z72 0 z73 0 Z0={Z0} Td={TS}
T74 z73 0 z74 0 Z0={Z0} Td={TS}
T75 z74 0 z75 0 Z0={Z0} Td={TS}
T76 z75 0 z76 0 Z0={Z0} Td={TS}
T77 z76 0 z77 0 Z0={Z0} Td={TS}
T78 z77 0 z78 0 Z0={Z0} Td={TS}
T79 z78 0 z79 0 Z0={Z0} Td={TS}
T80 z79 0 z80 0 Z0={Z0} Td={TS}
T81 z80 0 z81 0 Z0={Z0} Td={TS}
T82 z81 0 z82 0 Z0={Z0} Td={TS}
T83 z82 0 z83 0 Z0={Z0} Td={TS}
T84 z83 0 z84 0 Z0={Z0} Td={TS}
T85 z84 0 z85 0 Z0={Z0} Td={TS}
T86 z85 0 z86 0 Z0={Z0} Td={TS}
T87 z86 0 z87 0 Z0={Z0} Td={TS}
T88 z87 0 z88 0 Z0={Z0} Td={TS}
T89 z88 0 z89 0 Z0={Z0} Td={TS}
T90 z89 0 z90 0 Z0={Z0} Td={TS}
T91 z90 0 z91 0 Z0={Z0} Td={TS}
T92 z91 0 z92 0 Z0={Z0} Td={TS}
T93 z92 0 z93 0 Z0={Z0} Td={TS}
T94 z93 0 z94 0 Z0={Z0} Td={TS}
T95 z94 0 z95 0 Z0={Z0} Td={TS}
T96 z95 0 z96 0 Z0={Z0} Td={TS}
T97 z96 0 z97 0 Z0={Z0} Td={TS}
T98 z97 0 z98 0 Z0={Z0} Td={TS}
T99 z98 0 z99 0 Z0={Z0} Td={TS}
T100 z99 0 z100 0 Z0={Z0} Td={TS}
T101 z100 0 z101 0 Z0={Z0} Td={TS}
T102 z101 0 z102 0 Z0={Z0} Td={TS}
T103 z102 0 z103 0 Z0={Z0} Td={TS}
T104 z103 0 z104 0 Z0={Z0} Td={TS}
T105 z104 0 z105 0 Z0={Z0} Td={TS}
T106 z105 0 z106 0 Z0={Z0} Td={TS}
T107 z106 0 z107 0 Z0={Z0} Td={TS}
T108 z107 0 z108 0 Z0={Z0} Td={TS}
T109 z108 0 z109 0 Z0={Z0} Td={TS}
T110 z109 0 z110 0 Z0={Z0} Td={TS}
T111 z110 0 z111 0 Z0={Z0} Td={TS}
T112 z111 0 z112 0 Z0={Z0} Td={TS}
T113 z112 0 z113 0 Z0={Z0} Td={TS}
T114 z113 0 z114 0 Z0={Z0} Td={TS}
T115 z114 0 z115 0 Z0={Z0} Td={TS}
T116 z115 0 z116 0 Z0={Z0} Td={TS}
T117 z116 0 z117 0 Z0={Z0} Td={TS}
T118 z117 0 z118 0 Z0={Z0} Td={TS}
T119 z118 0 z119 0 Z0={Z0} Td={TS}
T120 z119 0 z120 0 Z0={Z0} Td={TS}
T121 z120 0 z121 0 Z0={Z0} Td={TS}
T122 z121 0 z122 0 Z0={Z0} Td={TS}
T123 z122 0 z123 0 Z0={Z0} Td={TS}
T124 z123 0 z124 0 Z0={Z0} Td={TS}
T125 z124 0 z125 0 Z0={Z0} Td={TS}
T126 z125 0 z126 0 Z0={Z0} Td={TS}
T127 z126 0 z127 0 Z0={Z0} Td={TS}
T128 z127 0 z128 0 Z0={Z0} Td={TS}
T129 z128 0 z129 0 Z0={Z0} Td={TS}
T130 z129 0 z130 0 Z0={Z0} Td={TS}
T131 z130 0 z131 0 Z0={Z0} Td={TS}
T132 z131 0 z132 0 Z0={Z0} Td={TS}
T133 z132 0 z133 0 Z0={Z0} Td={TS}
T134 z133 0 z134 0 Z0={Z0} Td={TS}
T135 z134 0 z135 0 Z0={Z0} Td={TS}
T136 z135 0 z136 0 Z0={Z0} Td={TS}
T137 z136 0 z137 0 Z0={Z0} Td={TS}
T138 z137 0 z138 0 Z0={Z0} Td={TS}
T139 z138 0 z139 0 Z0={Z0} Td={TS}
T140 z139 0 z140 0 Z0={Z0} Td={TS}
T141 z140 0 z141 0 Z0={Z0} Td={TS}
T142 z141 0 z142 0 Z0={Z0} Td={TS}
T143 z142 0 z143 0 Z0={Z0} Td={TS}
T144 z143 0 z144 0 Z0={Z0} Td={TS}
T145 z144 0 z145 0 Z0={Z0} Td={TS}
T146 z145 0 z146 0 Z0={Z0} Td={TS}
T147 z146 0 z147 0 Z0={Z0} Td={TS}
T148 z147 0 z148 0 Z0={Z0} Td={TS}
T149 z148 0 z149 0 Z0={Z0} Td={TS}
T150 z149 0 z150 0 Z0={Z0} Td={TS}
T151 z150 0 z151 0 Z0={Z0} Td={TS}
T152 z151 0 z152 0 Z0={Z0} Td={TS}
T153 z152 0 z153 0 Z0={Z0} Td={TS}
T154 z153 0 z154 0 Z0={Z0} Td={TS}
T155 z154 0 z155 0 Z0={Z0} Td={TS}
T156 z155 0 z156 0 Z0={Z0} Td={TS}
T157 z156 0 z157 0 Z0={Z0} Td={TS}
T158 z157 0 z158 0 Z0={Z0} Td={TS}
T159 z158 0 z159 0 Z0={Z0} Td={TS}
T160 z159 0 z160 0 Z0={Z0} Td={TS}
T161 z160 0 z161 0 Z0={Z0} Td={TS}
T162 z161 0 z162 0 Z0={Z0} Td={TS}
T163 z162 0 z163 0 Z0={Z0} Td={TS}
T164 z163 0 z164 0 Z0={Z0} Td={TS}
T165 z164 0 z165 0 Z0={Z0} Td={TS}
T166 z165 0 z166 0 Z0={Z0} Td={TS}
T167 z166 0 z167 0 Z0={Z0} Td={TS}
T168 z167 0 z168 0 Z0={Z0} Td={TS}
T169 z168 0 z169 0 Z0={Z0} Td={TS}
T170 z169 0 z170 0 Z0={Z0} Td={TS}
T171 z170 0 z171 0 Z0={Z0} Td={TS}
T172 z171 0 z172 0 Z0={Z0} Td={TS}
T173 z172 0 z173 0 Z0={Z0} Td={TS}
T174 z173 0 z174 0 Z0={Z0} Td={TS}
T175 z174 0 z175 0 Z0={Z0} Td={TS}
T176 z175 0 z176 0 Z0={Z0} Td={TS}
T177 z176 0 z177 0 Z0={Z0} Td={TS}
T178 z177 0 z178 0 Z0={Z0} Td={TS}
T179 z178 0 z179 0 Z0={Z0} Td={TS}
T180 z179 0 z180 0 Z0={Z0} Td={TS}
T181 z180 0 z181 0 Z0={Z0} Td={TS}
T182 z181 0 z182 0 Z0={Z0} Td={TS}
T183 z182 0 z183 0 Z0={Z0} Td={TS}
T184 z183 0 z184 0 Z0={Z0} Td={TS}
T185 z184 0 z185 0 Z0={Z0} Td={TS}
T186 z185 0 z186 0 Z0={Z0} Td={TS}
T187 z186 0 z187 0 Z0={Z0} Td={TS}
T188 z187 0 z188 0 Z0={Z0} Td={TS}
T189 z188 0 z189 0 Z0={Z0} Td={TS}
T190 z189 0 z190 0 Z0={Z0} Td={TS}
T191 z190 0 z191 0 Z0={Z0} Td={TS}
T192 z191 0 z192 0 Z0={Z0} Td={TS}
T193 z192 0 z193 0 Z0={Z0} Td={TS}
T194 z193 0 z194 0 Z0={Z0} Td={TS}
T195 z194 0 z195 0 Z0={Z0} Td={TS}
T196 z195 0 z196 0 Z0={Z0} Td={TS}
T197 z196 0 z197 0 Z0={Z0} Td={TS}
T198 z197 0 z198 0 Z0={Z0} Td={TS}
T199 z198 0 z199 0 Z0={Z0} Td={TS}
T200 z199 0 z200 0 Z0={Z0} Td={TS}


