.SUBCKT  G7V7570M.LIB 2 1 3; Port1 Port2 Common
*Subcircuit generated by S2P2LIB1.EXE on 08-29-2003
* SIEMENS Small Signal Semiconductors 
* BFG196 
* Si NPN RF Bipolar Junction Transistor in SOT223 
* VCE = 0.75 V     IC = 70 mA      
* Common Emitter S-Parameters:                       August  1996 
*# GHz  S  MA  R  50
*  f         S11            S21            S12            S22 
* GHz     MAG   ANG      MAG   ANG      MAG   ANG      MAG   ANG 
* 
 
R1N 1 5 -50
R1P 5 7 100
R2N 2 4 -50
R2P 4 6 100
 
*S11   FREQ   DB   PHASE
E11 7 9 FREQ {V(5,3)}=
+(  0.01gHz,  -11.28, -106.30)
+(  0.02gHz,   -7.03, -127.50)
+(  0.05gHz,   -3.93, -154.10)
+(  0.10gHz,   -3.07, -169.00)
+(  0.15gHz,   -2.95, -175.90)
+(  0.20gHz,   -2.86, -179.80)
+(  0.25gHz,   -2.81, -183.50)
+(  0.30gHz,   -2.74, -186.20)
+(  0.40gHz,   -2.72, -191.30)
+(  0.50gHz,   -2.64, -195.70)
+(  0.60gHz,   -2.64, -200.10)
+(  0.70gHz,   -2.59, -204.40)
+(  0.80gHz,   -2.53, -208.00)
+(  0.90gHz,   -2.56, -211.90)
+(  1.00gHz,   -2.50, -215.70)
+(  1.10gHz,   -2.45, -218.70)
+(  1.20gHz,   -2.36, -222.40)
+(  1.30gHz,   -2.36, -225.70)
+(  1.40gHz,   -2.31, -229.10)
+(  1.50gHz,   -2.28, -232.30)
+(  1.60gHz,   -2.24, -235.50)
+(  1.70gHz,   -2.18, -238.40)
+(  1.80gHz,   -2.08, -241.40)
+(  1.90gHz,   -2.08, -244.10)
+(  2.00gHz,   -2.07, -247.10)
+(  2.20gHz,   -2.03, -252.60)
+(  2.40gHz,   -1.90, -257.80)
+(  2.60gHz,   -1.85, -262.60)
+(  2.80gHz,   -1.77, -268.10)
+(  3.00gHz,   -1.70, -272.50)
+(  3.50gHz,   -1.62, -283.90)
+(  4.00gHz,   -1.43, -293.00)
+(  4.50gHz,   -1.29, -301.60)
+(  5.00gHz,   -1.21, -309.40)
+(  5.50gHz,   -1.18, -316.60)
+(  6.00gHz,   -1.22, -323.60)
 
*S21   FREQ   DB   PHASE
E21 6 8 FREQ {V(5,3)}=
+(  0.01gHz,  +36.35, +157.30)
+(  0.02gHz,  +34.74, +140.40)
+(  0.05gHz,  +29.93, +114.40)
+(  0.10gHz,  +24.65, +100.20)
+(  0.15gHz,  +21.25,  +93.00)
+(  0.20gHz,  +18.84,  +88.60)
+(  0.25gHz,  +16.91,  +85.00)
+(  0.30gHz,  +15.37,  +81.90)
+(  0.40gHz,  +12.93,  +76.80)
+(  0.50gHz,  +11.01,  +71.60)
+(  0.60gHz,   +9.46,  +66.90)
+(  0.70gHz,   +8.15,  +62.10)
+(  0.80gHz,   +7.00,  +57.70)
+(  0.90gHz,   +6.08,  +53.60)
+(  1.00gHz,   +5.21,  +49.50)
+(  1.10gHz,   +4.39,  +45.70)
+(  1.20gHz,   +3.77,  +41.70)
+(  1.30gHz,   +3.11,  +37.90)
+(  1.40gHz,   +2.55,  +34.40)
+(  1.50gHz,   +2.09,  +30.50)
+(  1.60gHz,   +1.50,  +26.60)
+(  1.70gHz,   +0.96,  +23.00)
+(  1.80gHz,   +0.70,  +20.20)
+(  1.90gHz,   +0.33,  +16.80)
+(  2.00gHz,   -0.04,  +13.70)
+(  2.20gHz,   -0.73,   +7.10)
+(  2.40gHz,   -1.38,   +0.10)
+(  2.60gHz,   -1.74,   -5.30)
+(  2.80gHz,   -2.27,  -11.00)
+(  3.00gHz,   -2.71,  -16.60)
+(  3.50gHz,   -3.76,  -28.10)
+(  4.00gHz,   -4.72,  -38.50)
+(  4.50gHz,   -5.55,  -48.70)
+(  5.00gHz,   -5.90,  -56.20)
+(  5.50gHz,   -6.43,  -64.70)
+(  6.00gHz,   -6.73,  -73.20)
 
*S12   FREQ   DB   PHASE
E12 9 3 FREQ {V(4,3)}=
+(  0.01gHz,  -44.73,  +70.40)
+(  0.02gHz,  -40.26,  +61.10)
+(  0.05gHz,  -35.55,  +53.30)
+(  0.10gHz,  -32.43,  +58.40)
+(  0.15gHz,  -30.23,  +61.00)
+(  0.20gHz,  -28.36,  +64.20)
+(  0.25gHz,  -26.71,  +65.60)
+(  0.30gHz,  -25.34,  +65.90)
+(  0.40gHz,  -23.15,  +66.00)
+(  0.50gHz,  -21.42,  +64.10)
+(  0.60gHz,  -19.96,  +62.30)
+(  0.70gHz,  -18.77,  +60.40)
+(  0.80gHz,  -17.70,  +57.70)
+(  0.90gHz,  -16.77,  +55.30)
+(  1.00gHz,  -16.00,  +52.90)
+(  1.10gHz,  -15.32,  +50.50)
+(  1.20gHz,  -14.68,  +48.10)
+(  1.30gHz,  -14.12,  +45.30)
+(  1.40gHz,  -13.66,  +42.40)
+(  1.50gHz,  -13.16,  +39.50)
+(  1.60gHz,  -12.68,  +37.00)
+(  1.70gHz,  -12.29,  +34.70)
+(  1.80gHz,  -11.92,  +32.00)
+(  1.90gHz,  -11.60,  +29.20)
+(  2.00gHz,  -11.29,  +26.30)
+(  2.20gHz,  -10.70,  +21.00)
+(  2.40gHz,  -10.24,  +16.30)
+(  2.60gHz,   -9.79,  +11.20)
+(  2.80gHz,   -9.35,   +5.50)
+(  3.00gHz,   -9.05,   +0.70)
+(  3.50gHz,   -8.68,  -12.60)
+(  4.00gHz,   -8.43,  -21.90)
+(  4.50gHz,   -8.02,  -31.30)
+(  5.00gHz,   -7.89,  -42.10)
+(  5.50gHz,   -7.55,  -52.60)
+(  6.00gHz,   -7.66,  -64.50)
 
*S22   FREQ   DB   PHASE
E22 8 3 FREQ {V(4,3)}=
+(  0.01gHz,   -4.07,  -34.30)
+(  0.02gHz,   -4.89,  -63.10)
+(  0.05gHz,   -7.05, -112.10)
+(  0.10gHz,   -8.15, -144.10)
+(  0.15gHz,   -8.33, -158.00)
+(  0.20gHz,   -8.49, -165.50)
+(  0.25gHz,   -8.43, -171.60)
+(  0.30gHz,   -8.46, -175.30)
+(  0.40gHz,   -8.36, -182.40)
+(  0.50gHz,   -8.31, -187.70)
+(  0.60gHz,   -8.22, -191.90)
+(  0.70gHz,   -8.10, -195.90)
+(  0.80gHz,   -7.96, -200.10)
+(  0.90gHz,   -7.85, -204.10)
+(  1.00gHz,   -7.72, -207.40)
+(  1.10gHz,   -7.55, -210.60)
+(  1.20gHz,   -7.40, -214.20)
+(  1.30gHz,   -7.26, -217.90)
+(  1.40gHz,   -7.11, -220.90)
+(  1.50gHz,   -6.99, -223.70)
+(  1.60gHz,   -6.86, -227.10)
+(  1.70gHz,   -6.72, -230.50)
+(  1.80gHz,   -6.57, -233.60)
+(  1.90gHz,   -6.41, -236.20)
+(  2.00gHz,   -6.22, -239.20)
+(  2.20gHz,   -6.03, -245.30)
+(  2.40gHz,   -5.70, -251.60)
+(  2.60gHz,   -5.49, -257.50)
+(  2.80gHz,   -5.23, -262.80)
+(  3.00gHz,   -5.05, -268.90)
+(  3.50gHz,   -4.44, -282.00)
+(  4.00gHz,   -3.90, -295.10)
+(  4.50gHz,   -3.46, -307.50)
+(  5.00gHz,   -3.09, -318.60)
+(  5.50gHz,   -2.75, -330.20)
+(  6.00gHz,   -2.52, -340.90)
 
.ENDS
